US08871970B2
Production of 1-[2-(dimethylamino)ethoxy]-N,N,2-trimethylpropane-2-amine
To toluene (100 ml), sodium hydroxide (16.7 g, 418 mmol) and 2-dimethylamino-2-methyl-1-propanol (23.4 g, 200 mmol) were added and the mixture was heated at reflux for 2 hours. After cooling to 70° C., β-dimethylaminoethyl chloride hydrochloride (28.8 g, 200 mmol) was added. Then, the mixture was heated at reflux for 5.5 hours. After cooling to room temperature, insolubles were separated by filtration and the organic phase was concentrated under reduced pressure. The residue was distilled under reduced pressure to obtain 10.3 g (in a yield of 27%) of the objective compound as a colorless liquid.

reactant | sodium hydroxide | 418 mmol, 16.7 g | [OH-].[Na+]
reactant | 2-dimethylamino-2-methyl-1-propanol | 200 mmol, 23.4 g | CN(C(CO)(C)C)C | C6H15NO
reactant | β-dimethylaminoethyl chloride hydrochloride | 200 mmol, 28.8 g | Cl.CN(CCCl)C
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(dimethylamino)ethoxy]-N,N,2-trimethylpropane-2-amine | yield of 27% | CN(CCOCC(C)(N(C)C)C)C | C10H24N2O
